* C:\users\ostoja\Desktop\02_Elektronika\pedale\noise_gate\noise_gate\simulations\boss_NF1_modern_components.asc
V1 sine 0 SINE(0 4m 3k)
V2 9V 0 9
V3 mult 0 1
B1 input 0 V=V(sine) * V(mult)
C2 N003 N002 22n
R7 N001 0 10k
C3 N011 N001 22n
R8 N011 N015 {100k * (1 - sense) + 1}
R10 N002 input 1k
R6 N005 N001 22k
C4 N004 N005 1µ
J2 N012 N006 4V7 MMBF5486
C5 N004 N012 2.2µ
C6 4V7 0 1µ
R9 4V7 9V 3.3k
R11 N020 0 5.6k
R12 N012 4V7 470k
Q2 9V N004 N008 0 BC817-25
R14 N008 0 10k
C8 N010 N009 10µ
R15 N010 0 100k
R16 9V N004 1Meg
R13 N009 N008 470
R17 N007 N006 1Meg
C7 N008 N007 33n
R23 N014 N006 1Meg
C9 N014 0 1µ
R24 N015 N016 {100k * (sense) + 1}
R25 N016 0 4.7k
C10 N031 N015 47n
R28 4V5 9V 22k
C16 4V5 0 1µ
R29 0 4V5 22k
R30 N003 4V5 1Meg
R31 N031 4V5 220k
C17 N027 4V5 1µ
R32 N028 N027 680
R33 N029 N028 1Meg
R34 N030 N029 390k
C18 N030 N029 1n
Q3 N025 N030 N032 0 BC817-25
R35 N032 0 47k
R36 9V N025 47k
Q5 N024 N033 0 0 BC817-25
R37 N033 0 100k
D2 0 N033 1N4148
R38 N024 N014 470
Q6 N024 N026 0 0 BC817-25
R39 N026 0 100k
D3 0 N026 1N4148
C19 N033 N032 10µ
C20 N026 N025 10µ
R40 4V7 N018 {4.7k * (1 - vr3)}
R41 N018 N020 {4.7k * vr3}
R42 N018 N021 {4.7k * (1 - vr4)}
R43 N021 N023 {4.7k * vr4}
D4 N022 N014 1N4148
R44 N022 N021 10k
R45 N023 0 10k
R46 N019 N018 33k
R47 N019 N014 {decay * 2Meg}
XU1 N003 N001 9V 0 N001 TL072
XU3 N031 N028 9V 0 N029 TL072
Q1 4V7 N017 0 0 BC817-25
R48 4V7 N017 68k
R49 N017 0 10k
R50 N013 9V 3.3k
.model D D
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 10
.param sense = 0.01
.param vr3 = 0.5
.param vr4 = 0.99
.param decay = 0.5
.lib TL072.cir
.backanno
.end
